US06632810B2
Synthesis of N-ethoxycarbonyl-2-nitro-3,4,5-trimethoxyaniline:
2-Nitro-3,4,5-trimethoxybenzoic acid (4.7 g) was dissolved in dry benzene (70 mL), triethylamine (2.56 mL) and diphenylphosphoryl azide (4.15 mL) were added to the solution, and the mixture was stirred for 2 hours under reflux. Dry ethanol (140 mL) was added to the reaction mixture, and the mixture was further stirred overnight under reflux. After the reaction mixture was concentrated under reduced pressure, the residue was extracted with ethyl acetate. The resultant organic layer was washed with diluted hydrochloric acid, an aqueous solution of potassium carbonate, water and saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:4 to 1:3) to obtain the title compound.

reactant | 2-Nitro-3,4,5-trimethoxybenzoic acid | 4.7 g | [N+](=O)([O-])C1=C(C(=O)O)C=C(C(=C1OC)OC)OC | C10H11NO7
reactant | triethylamine | 2.56 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 4.15 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | ethanol | 140 mL | C(C)O | C2H6O
solvent | benzene | 70 mL | C1=CC=CC=C1 | C6H6
product | N-ethoxycarbonyl-2-nitro-3,4,5-trimethoxyaniline | C(C)OC(=O)NC1=C(C(=C(C(=C1)OC)OC)OC)[N+](=O)[O-] | C12H16N2O7
